US04496560
A solution of 2-benzhydryloxycarbonyl-3-(1-bromo-2-oxoethyl)-7-t-butoxycarbonylamino-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene (mixture of the epimeric bromoaldehydes) (2.34 g) and of thioformamide (0.3 g) in dry tetrahydrofuran (23 cc) is stirred for 3 hours at 20° C. and then heated at 50° C. for 90 minutes. The reaction mixture is diluted with ethyl acetate (160 cc) and washed with saturated sodium bicarbonate solution (100 cc) and then with half-saturated sodium chloride solution (100 cc). After having dried the organic layer over magnesium sulphate and evaporated the solvent under reduced pressure (30 mm Hg; 4 kPa) at 30° C., the residue obtained is subjected to chromatography on a column (height: 30 cm; diameter: 2.5 cm) of silica gel (0.04-0.06 mm), elution being carried out under a pressure of 0.8 bar (80 kPa) with a 70:30 (by volume) mixture of cyclohexane and ethyl acetate, and 50 cc fractions being collected. Fractions 16 to 25, containing the pure product, are combined and concentrated to dryness under reduced pressure (30 mm Hg; 4 kPa) at 30° C., and the residue is triturated in isopropyl ether (50 cc). After filtration and drying, 2-benzhydryloxycarbonyl-7-t-butoxycarbonylamino-8-oxo-3-(thiazol-5-yl)-5-thia-1-azabicyclo[4.2.0]oct-2-ene (0.85 g) is obtained in the form of a cream-coloured solid.

reactant | 2-benzhydryloxycarbonyl-3-(1-bromo-2-oxoethyl)-7-t-butoxycarbonylamino-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene | C(C1=CC=CC=C1)(C1=CC=CC=C1)OC(=O)C=1N2C(C(C2SCC1C(C=O)Br)NC(=O)OC(C)(C)C)=O | C27H27BrN2O6S
reactant | thioformamide | 0.3 g | C(=S)N | CH3NS
solvent | tetrahydrofuran | 23 cc | O1CCCC1 | C4H8O
solvent | ethyl acetate | 160 cc | C(C)(=O)OCC | C4H8O2
product | 2-benzhydryloxycarbonyl-7-t-butoxycarbonylamino-8-oxo-3-(thiazol-5-yl)-5-thia-1-azabicyclo[4.2.0]oct-2-ene | 0.85 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)OC(=O)C=1N2C(C(C2SCC1C1=CN=CS1)NC(=O)OC(C)(C)C)=O | C28H27N3O5S2
